US05972947
A mixture of 5.7 g (2R)-glycidyl-tosylate (Fluka GmbH), 4 ml piperidine-4-carboxylic acid ethyl ester and 3.5 g potassium carbonate in 100 ml acetonitrile is heated for 2 h under reflux. After cooling the reaction mixture is admixed with 50 ml water and extracted three times each with 50 ml methylene chloride and 50 ml diethyl ether. After drying the combined organic phases over sodium sulfate and removing the solvent on a rotary evaporator, the residue is purified by means of column chromatography on silica gel (ethyl acetate/saturated methanolic ammonia 95/5). In this way 2.5 g (2S)-l-oxiran-2-ylmethyl-piperidine-4-carboxylic acid ethyl ester is obtained.

reactant | piperidine-4-carboxylic acid ethyl ester | 4 ml | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 ml | O | H2O
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (2S)-l-oxiran-2-ylmethyl-piperidine-4-carboxylic acid ethyl ester | 2.5 g | C(C)OC(=O)C1CCN(CC1)C[C@@H]1OC1 | C11H19NO3
